US08877759B2
Preparation 30. Synthesis of Di tert-butyl 2-(4-formylphenyl)piperazine-1,4-dicarboxylate
Di tert-butyl 2-[4-(hydroxymethyl)phenyl]piperazine-1,4-dicarboxylate (750 mg, 1.911 mmol) was dissolved in dichloromethane (12.00 mL) and dioxomanganese (1.993 g, 396.5 μL, 22.93 mmol) was added. The reaction was stirred at ambient temperature for 22 hours. Reaction followed by TLC. Reaction mixture was filtered through a pad of celite and washed with dichloromethane. Purified by column chromatography (ISCO Companion, 40 g column) dry loaded and eluted with 5 to 50% ethyl acetate/petroleum ether. Product fractions were combined and concentrated in vacuo to give the sub-title product. (699 mg, 94% yield). 1H NMR (400.0 MHz, CDCl3) δ 1.43-1.47 (m, 18H), 3.01 (br s, 2H), 3.43-3.44 (m, 1H), 3.98-4.01 (m, 2H), 4.44 (br s, 1H), 5.32 (br s, 1H), 7.49-7.51 (m, 2H), 7.87 (d, 2H) and 10.03 (s, 1H) ppm; TLC (petroleum ether: ethyl acetate, 1:1 v/v) Rf=0.61

reactant | Di tert-butyl 2-[4-(hydroxymethyl)phenyl]piperazine-1,4-dicarboxylate | 1.911 mmol, 750 mg | OCC1=CC=C(C=C1)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H32N2O5
solvent | dichloromethane | 12.00 mL | ClCCl | CH2Cl2
catalyst | dioxomanganese | 22.93 mmol, 396.5 μL, 1.993 g | O=[Mn]=O
product | Di tert-butyl 2-(4-formylphenyl)piperazine-1,4-dicarboxylate | 94% yield | C(=O)C1=CC=C(C=C1)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H30N2O5
